US08686135B2
5-Bromo-6-methylpicolinonitrile. A 1-L, three-neck, round-bottom flask equipped with a mechanical stirrer and a nitrogen inlet was charged with 3,6-dibromo-2-methylpyridine (150 g, 0.59 mol), copper (I) cyanide (42.8 g, 0.47 mol) and sodium cyanide (23 g, 0.47 mol). To the mixture was added N,N-dimethylformamide (300 mL). The mixture was heated to 95° C. and stirred for 48 h. The reaction mixture was cooled to ambient temperature and poured into ethanol (3 L) while stirring. The mixture was filtered through a pad of Celite, the filtrate was concentrated under reduced pressure and partitioned between water (3 L) and ethyl acetate (3 L). The organic layer was separated and washed with brine (2×600 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was purified by silica gel plug purification (0-5% ethyl acetate in hexanes) to afford the product (61.5 g, 45% yield) as a white solid. In addition, 19.32 g (14%) of the mixture of the starting material and the product was isolated. Alternate approach: 3,6-Dibromo-2-methylpyridine (1 equiv) and sodium iodide (2 equiv), were combined in propionitrile (15× vol). The mixture was stirred and iodotrimethylsilane (0.2 eqiv) was added. The reaction mixture was heated and stirred at 95° C. for 24 h, cooled to room temperature and diluted with ethyl acetate and water. The organic phase was washed with aqueous sodium bicarbonate, aqueous sodium thiosulfate, and aqueous sodium chloride. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure with addition of ethyl acetate to a residue. The product was solidified under vacuum to give 3-bromo-6-iodo-2-methylpyridine as an off-white solid. 3-Bromo-6-iodo-2-methylpyridine (1 equiv) in acetonitrile (7× vol) was treated with copper cyanide (0.5 equiv), sodium cyanide (0.8 equiv), and additional acetonitrile (3× vol). The reaction slurry was heated at 80° C. for 24 h. The reaction mixture was cooled to room temperature, treated with aqueous ammonium hydroxide (1.2 equiv), and filtered through Celite. The filtrate was diluted with ethyl acetate and the phases were separated. The organic layer was washed with aqueous ammonium hydroxide and aqueous sodium chloride, dried over sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to give the title compound as an off-white solid.

reactant | 3,6-Dibromo-2-methylpyridine | 1 equiv | BrC=1C(=NC(=CC1)Br)C | C6H5Br2N
reactant | sodium iodide | 2 equiv | [I-].[Na+]
reactant | iodotrimethylsilane | I[Si](C)(C)C | C3H9ISi
solvent | propionitrile | C(CC)#N | C3H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-bromo-6-iodo-2-methylpyridine | BrC=1C(=NC(=CC1)I)C | C6H5BrIN
